US04469703
19.6 g (0.1 moles) of 3,4,5-trimethoxybenzaldehyde and 9.1 g (0.1 moles) of nitroethanol are suspended in a mixture of 25 ml of methanol and 1 ml of N-methylpiperidine at a temperature of 0° C. (under cooling with ice water). The reaction mixture is stirred for 6 hours, then 50 ml of chloroform are added, the mixture is allowed to stand at 0° C. for 72 hours and then acidified with 1 ml of acetic acid. The separated crystalline substance is filtered off, washed with chloroform and ice-cold (0° C.) water and dried. 19.7 g 68.64%) of 1-(3,4,5-trimethoxyphenyl)-2-nitro-1,3-propanediol are obtained; m.p.: 155°-159° C.

reactant | 3,4,5-trimethoxybenzaldehyde | 0.1 moles, 19.6 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | nitroethanol | 0.1 moles, 9.1 g | [N+](=O)([O-])C(C)O | C2H5NO3
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 25 ml | CO | CH4O
solvent | N-methylpiperidine | 1 ml | CN1CCCCC1 | C6H13N
product | 1-(3,4,5-trimethoxyphenyl)-2-nitro-1,3-propanediol | COC=1C=C(C=C(C1OC)OC)C(C(CO)[N+](=O)[O-])O | C12H17NO7
